US09353085B2
A mixture of 5.8 g of 9-Acetyl-3-bromocarbazole and 5.7 g of (4-benzo[d]thiazol-2-yl) phenylboronic acid were stirred together in 30 ml of toluene. To this was added 0.03 g of tetrakis(triphenylphosphine)palladium, 4.2 g of potassium carbonate and 10 ml of aqueous ethanol were added and refluxed under nitrogen for 6 h. The reaction was quenched with water and the toluene layer was removed and passed through a celite column. The organic layers were combined and then evaporated in a rotary evaporator under vacuum to yield 6.7 g of 9-acetyl-3-[(4-benzo [d]thiazol-2-yl) phenyl]-9H-carbazole as a white solid.

reactant | 9-Acetyl-3-bromocarbazole | 5.8 g | C(C)(=O)N1C2=CC=CC=C2C=2C=C(C=CC12)Br | C14H10BrNO
reactant | (4-benzo[d]thiazol-2-yl) phenylboronic acid | 5.7 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C13H10BNO2S
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-acetyl-3-[(4-benzo [d]thiazol-2-yl) phenyl]-9H-carbazole | 6.7 g | C(C)(=O)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C27H18N2OS
